US06565829B2
Step 3: Preparation of tert-butyl 2-[1-methyl-5-(phenylsulfonyl)-1H-indol-3-yl]ethylcarbamate
A solution of tert-butyl 2-[5-(phenylsulfonyl)-1H-indol-3-yl]ethylcarbamate (0.58 g, 1.46 mmol) in acetone (25.0 mL) was treated with Cs2CO3 (1.85 g, 5.68 mmol) and dimethyl sulfate (0.80 mL, 8.45 mmol). The reaction was stirred at room temperature for 3.5 hours then filtered. The filtrate was concentrated in vacuo and subjected to column chromatography (silica gel, 30% EtOAc/hexane) to give 0.41 g (68%) of a colorless solid as the title compound: mp 127.4-130.6° C.; 1H NMR (400 MHz, DMSO-d6) δ 8.22 (s, 1H), 7.93 (d, J=7.1 Hz, 1H), 7.65-7.55 (m, 5H), 7.35 (s, 1H), 6.93 (br, 1H), 3.77 (s, 3H), 3.20-3.18 (m, 2H), 2.86-2.82 (m, 2H), 1.37 (s, 9H); 13C NMR (100 MHz, DMSO-d6) δ 155.5, 142.7, 138.3, 132.8, 130.5, 130.0, 129.4, 127.0, 126.7, 119.7, 119.3, 113.4, 110.7, 77.4, 41.1, 32.5, 28.1, 24.9; IR (diffuse reflectance) 1676, 1531, 1450, 1366, 1316, 1303, 1286, 1177, 1152, 1144, 1103, 797, 726, 692, 626 cm−1; HRMS (FAB) calcd for C22H26N2O4S+H 414.1613, found 414.1619; Anal. Calcd for C22H26N2O4S: C, 63.74; H, 6.32; N, 6.76. Found: C, 63.78; H, 6.39; N, 6.80.

reactant | tert-butyl 2-[5-(phenylsulfonyl)-1H-indol-3-yl]ethylcarbamate | 1.46 mmol, 0.58 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2C(=CNC2=CC1)CCNC(OC(C)(C)C)=O | C21H24N2O4S
reactant | Cs2CO3 | 5.68 mmol, 1.85 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | dimethyl sulfate | 8.45 mmol, 0.80 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 25.0 mL | CC(=O)C | C3H6O
product | tert-butyl 2-[1-methyl-5-(phenylsulfonyl)-1H-indol-3-yl]ethylcarbamate | 0.41 g, 68% | CN1C=C(C2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1)CCNC(OC(C)(C)C)=O | C22H26N2O4S
